US05792769
b) Benzenesulfonic acid 3-hydroxy-5-methylphenyl ester
A mixture of benzenesulfonic acid 3-benzyloxy-5-methylphenyl ester (532 mg, 1.5 mmol), as prepared in the preceding step, and 10% palladium on carbon (200 mg) in ethanol (20 mL) was hydrogenated (balloon) overnight. The catalyst was removed by filtering over diatomaceous earth and the filtrate was evaporated in vacuo to give the title compound as a colorless syrup (390 mg, 98%). 1H-NMR (300 MHz, CDCl3 /CD3OD) δ 2.19 (s, 3H), 6.27 (s, 1H), 6.54 (s, 1H), 6.66 (s 1H), 7.43 (m, 1H), 7.55 (t, 1H), 7.70 (t, 1H), 7.85 (m, 2H).

reactant | benzenesulfonic acid 3-benzyloxy-5-methylphenyl ester | 1.5 mmol, 532 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC=C1 | C20H18O4S
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Benzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 390 mg, 98% | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC=C1 | C13H12O4S
